US05466701
To a mixture of diisopropylamine (40.7 mL, 290 mmol) in THF (800 mL) at -78° C. was added n-BuLi (100 ML, 255 mmol, 2.15M). The mixture was stirred for 1/4 hour, then 2-ethyl-4-methoxy-N,N-diethylbenzamide (235.3 g) in THF (300 mL) was added at -78° C. The mixture was stirred at -78° C. for 2.5 hours, then at 0° C. for 1 hour, and then ethyliodide (23.2 mL) in THF (150 mL) was added over 10 minutes at -78° C. The reaction mixture was stirred for about 1 hour, quenched with saturated NH4Cl (100 mL) and the solvent was removed in vacuo. Ether (500 mL) was added to the residue, the ether layer was washed with saturated NaHCO3 (50 mL), 1N HCl (50 mL), water, then brine, and then the ether layer was dried over Na2SO4 and the solvent was removed in vacuo. The residue was purified by distillation under high vacuum (2 mm Hg) to afford 46.6 g (76%) of 2-sec-butyl-4-methoxy-N,N-diethylbenzamide.

reactant | diisopropylamine | 290 mmol, 40.7 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 255 mmol, 2.15M | [Li]CCCC
reactant | 2-ethyl-4-methoxy-N,N-diethylbenzamide | 235.3 g | C(C)C1=C(C(=O)N(CC)CC)C=CC(=C1)OC | C14H21NO2
reactant | ethyliodide | 23.2 mL | C(C)I | C2H5I
solvent | THF | 800 mL | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 2-sec-butyl-4-methoxy-N,N-diethylbenzamide | 46.6 g, 76% | C(C)(CC)C1=C(C(=O)N(CC)CC)C=CC(=C1)OC | C16H25NO2
